US07465806B2
To a solution of 4-formyl-1H-pyrrole-2-carboxylic acid methyl ester (589 mg) in acetone/water (50 mL, 1:1) was added a solution of KMnO4 in acetone/water (70 mL, 1:1) dropwise within one hour. The mixture was stirred for 3 h at RT whereupon it was poured into a solution of NaHSO3 (10% in 1 N HCl, 100 mL). The resulting mixture was extracted with ethyl acetate. The combined organic phases were washed with water and extracted with 2N aqueous K2CO3 solution. The basic aqueous phase was acidified with 2N HCl and extracted with ethyl acetate The combined organic phases were dried (MgSO4) and concentrated in vacuo to provide 1H-pyrrole-2,4-dicarboxylic acid 2-methyl ester (530 mg) which was used directly in the next step.

reactant | 4-formyl-1H-pyrrole-2-carboxylic acid methyl ester | 589 mg | COC(=O)C=1NC=C(C1)C=O | C7H7NO3
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaHSO3 | 1 N, 100 mL | OS(=O)[O-].[Na+]
solvent | acetone water | 50 mL | CC(=O)C.O
solvent | acetone water | 70 mL | CC(=O)C.O
product | 1H-pyrrole-2,4-dicarboxylic acid 2-methyl ester | 530 mg | COC(=O)C=1NC=C(C1)C(=O)O | C7H7NO4
